US03983128
10.02 g. of 4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (0.04 mol.) are dissolved in 100 ml. of anhydrous tetrahydrofuran. Nitrogen is passed through the flask and while stirring and cooling with tap water, 1.14 g. of lithium aluminium hydride is added a bit at a time in order to keep the reaction temperature at about 25°C. Stirring is continued for an additional two hours at room temperature. The reaction mixture is allowed to stand over night. Then 3 N-hydrochloric acid (60 ml) is added and the mixture is evaporated in vacuo. The residue is dissolved in water, neutralized with aqueous sodium hydroxide (10%) to pH 7 and extracted several times with ether. The combined etheral extracts are dried with sodium sulfate, evaporated and the residual oil (6.7 g. (79%)) is distilled in vacuo, b.p. 0.4 mm 137°-140°, providing a quickly crystallizing oil. The compound is recrystallized from hexane, to yield the 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-methanol, m.p. 56°.

reactant | 4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.04 mol | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)Cl | C11H12ClN3O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | water | O | H2O
product | 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-methanol | ClC1=C2C(=NC=C1CO)N(N=C2)CC | C9H10ClN3O
